US04120969
4-Chloromethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone
To 25.0 g. (0.09 mole) of 4-hydroxy-1-methyl-3,3-diphenyl-2-pyrrolidinone, in 200 ml. of chloroform was added 21.4 g. (0.18 mole) of thionyl chloride. With stirring and ice bath cooling, 18.0 g. (0.23 mole) of pyridine was added dropwise. The solution was refluxed for 2 hours. After concentrating in vacuo, the residue was dissolved in chloroform and washed successively with dilute hydrochloric acid solution and dilute sodium hydroxide. The chloroform solution was dried, filtered, and concentrated in vacuo. The solid residue was recrystallized from a 50:50 ethyl acetate-isopropyl ether mixture. It weighed 16.0 g. (59% yield) and melted at 120°-122° C.

reactant | 4-hydroxy-1-methyl-3,3-diphenyl-2-pyrrolidinone | 0.09 mole | OC1C(C(N(C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO2
reactant | thionyl chloride | 0.18 mole | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.23 mole | N1=CC=CC=C1 | C5H5N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone | 59% yield | ClCC1C(C(N(C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18ClNO
